US07829580B2
(c) (E)-3-{[1-(Ethoxycarbonylmethyl)-1H-pyrazol-4-yl]methylidene}-1-(triphenylmethyl)piperidin-4-ol
To a solution of (E)-3-{[1-(ethoxycarbonylmethyl)-1H-pyrazol-4-yl]methylidene}-1-(triphenylmethyl)piperidin-4-one (6.08 g) in ethanol (100 ml) was added sodium borohydride (230 mg). The resulting mixture was stirred at room temperature for 30 minutes, and the reaction was stopped by addition of a saturated aqueous ammonium chloride solution. The products were extracted with ethyl acetate, and the organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was evaporated in vacuo to afford the title compound as a yellow amorphous solid (6.2 g, yield: quantitative).

reactant | (E)-3-{[1-(ethoxycarbonylmethyl)-1H-pyrazol-4-yl]methylidene}-1-(triphenylmethyl)piperidin-4-one | 6.08 g | C(C)OC(=O)CN1N=CC(=C1)\C=C\1/CN(CCC1=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H31N3O3
reactant | sodium borohydride | 230 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (E)-3-{[1-(Ethoxycarbonylmethyl)-1H-pyrazol-4-yl]methylidene}-1-(triphenylmethyl)piperidin-4-ol | 6.2 g, yield: quantitative | C(C)OC(=O)CN1N=CC(=C1)\C=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H33N3O3
